US04670348
For example, vinylnaphthalene may be obtained by reacting formylnaphthalene with a Grignard reagent such as methyl magnesium iodide and then dehydrating the reaction product. Vinylphenylphenylethane may be obtained by reacting diphenylethane with acetyl chloride in the presence of a Friedel-Craft catalyst to produce acetylphenylphenylethane, reducing the thus produced product with sodium boron hydride and then dehydrating the thus reduced product. Isopropenylphenylphenylethane may be obtained by reacting formylphenylphenylethane with a Grignard reagent such as methyl magnesium iodide and then dehydrating the reaction product. 1,2-diphenylethylene may be obtained by reacting benzaldehyde with benzyl magnesium bromide and then dehydrating the reaction product; 1,2-diphenylpropene may likewise be obtained.

reactant | diphenylethane | C1(=CC=CC=C1)C(C)C1=CC=CC=C1 | C14H14
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | acetylphenylphenylethane | C(C)(=O)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O
